US07855297B2
By the reaction and treatment in the same manner as in Example 83 using 5-benzyloxy-N-(4-isopropylphenyl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.37 g) and 3-(chloromethyl)thiophene (0.21 g) as starting materials, 5-benzyloxy-N-(4-isopropylphenyl)-N-{[1-(3-thienylmethyl)pyrazol-4-yl]methyl}-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.16 g) was obtained. By the reaction and treatment of this compound (0.11 g), in the same manner as in Example 133, 5-hydroxy-N-(4-isopropylphenyl)-N-{[1-(3-thienylmethyl)pyrazol-4-yl]methyl}-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.054 g) was obtained.

reactant | 5-benzyloxy-N-(4-isopropylphenyl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.37 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NNC1)C1=CC=C(C=C1)C(C)C | C31H33N3O2
reactant | 3-(chloromethyl)thiophene | 0.21 g | ClCC1=CSC=C1 | C5H5ClS
product | 5-benzyloxy-N-(4-isopropylphenyl)-N-{[1-(3-thienylmethyl)pyrazol-4-yl]methyl}-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.16 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NN(C1)CC1=CSC=C1)C1=CC=C(C=C1)C(C)C | C36H37N3O2S
